US08957104B2
A. 2-(4-Fluoro-2-(trifluoromethyl)phenyl)-1,3-dioxolane
To a solution of commercially available 4-fluoro-2-(trifluoromethyl)benzaldehyde (15 g, 78 mmol) in toluene (90 mL) was added ethylene glycol (21.77 mL, 390 mmol) and TsOH (0.743 g, 3.90 mmol). The mixture was then heated (under a Dean-Stark trap attached to a reflux condenser) in an oil bath at 140° C. for 4 h, about 1.4-1.5 mL of water was collected, which was close to the expected volume. TLC (20% EtOAc-hexane) showed a major, new more polar spot. The mixture is diluted with EtOAc (100 mL) and washed with water (50 mL). The organic phase is washed with water (1×50 mL) and brine (50 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography (330 g ISCO column) eluting with 0-10% EtOAc-hexane gradient. The cleanest fractions with product afforded 9.83 g (51% yield): MS (ESI): m/z 237 (M+H).

reactant | 4-fluoro-2-(trifluoromethyl)benzaldehyde | 78 mmol, 15 g | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | ethylene glycol | 390 mmol, 21.77 mL | C(CO)O | C2H6O2
reactant | TsOH | 3.90 mmol, 0.743 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Fluoro-2-(trifluoromethyl)phenyl)-1,3-dioxolane | 51% yield | FC1=CC(=C(C=C1)C1OCCO1)C(F)(F)F | C10H8F4O2
